US08404679B2
f) rac-[(3R,4S)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone (XI-2)
To a solution of rac-[(3S,4R)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-4-phenyl-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (0.86 g, 1.61 mmol) in CH2Cl2 (12 ml) was added TFA (3 ml) at RT. Stirring was continued over night. The reaction mixture was then concentrated under vacuo, the crude dissolved in CH2Cl2, washed with aq.NaHCO3 and the organic phase dried over Na2SO4. Purification by flash chromatography (SiO2, CH2Cl2/MeOH 95:5) yielded 0.68 g (98%) of the title compound as a white solid. ES-MS m/e: 401.3 (M+H+).

reactant | rac-[(3S,4R)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-4-phenyl-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 1.61 mmol, 0.86 g | C(C)(C)(C)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=CC=C1)C(=O)N1CCN(CC1)S(=O)(=O)C)=O | C22H34N4O5S
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | rac-[(3R,4S)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | 0.68 g, 98% | ClC1=CC=C(C=C1)[C@@H]1CN(C[C@H]1NC)C(=O)N1CCN(CC1)S(=O)(=O)C | C17H25ClN4O3S
